US04268509
A solution of 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile (12.3 g) in dioxane (30 ml) was added under ice-cooling to a stirred solution of 1-(3-aminopropyl)-1H-tetrazole-5-thiol hydrochloride (9.78 g) and triethylamine (11.1 g) in a mixture of dioxane (25 ml) and water (25 ml), and then the resulting mixture was stirred for 1.75 hours at ambient temperature. Dioxane was distilled off and to the residue were added diethyl ether and a small amount of water. After shaking, the aqueous layer was separated and the organic layer was extracted twice with 10% potassium carbonate. The extracts combined with the separated aqueous layer were washed three times with diethyl ether, adjusted to pH 1 with hydrochloric acid and extracted with diethyl ether. The extract was washed with water, dried and evaporated in vacuo. The residual oil (10.92 g) was pulverized with diisopropyl ether to give 1-[3-(N-t-butoxycarbonylamino)propyl]-1H-tetrazole-5-thiol (9.6 g), mp. 75° to 77° C.

reactant | 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile | 12.3 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | 1-(3-aminopropyl)-1H-tetrazole-5-thiol hydrochloride | 9.78 g | Cl.NCCCN1N=NN=C1S
reactant | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 1-[3-(N-t-butoxycarbonylamino)propyl]-1H-tetrazole-5-thiol | 9.6 g | C(C)(C)(C)OC(=O)NCCCN1N=NN=C1S | C9H17N5O2S
